US08278337B2
To a suspension of 4-(methylsulfonyl)phenylhydrazine hydrochloride (0.75 g, 4.02 mmol, 1.00 equiv) in ethanol (20 mL) was added 4-(dimethylamino)-1,1-dimethoxybut-3-en-2-one (0.7 g, 4.0 mmol, 1.0 equiv). The resulting mixture was heated at reflux (48 hr) then concentrated. To a solution of the crude residue in acetone (10 mL) was added 6N HCl (2 mL). The resulting solution was allowed to stir at room temperature for 30 min, then was partitioned between ethyl acetate and water. The organic extract was washed with water, saturated sodium bicarbonate, brine and dried (sodium sulfate). Concentration afforded 2-(4-methanesulfonyl-phenyl)-2H-pyrazole-3-carbaldehyde admixed with regioisomer 1-(4-methanesulfonyl-phenyl)-1H-pyrazole-3-carbaldehyde (ca. 10/1). The crude material was used without further purification.

reactant | 4-(methylsulfonyl)phenylhydrazine hydrochloride | 4.02 mmol, 0.75 g, 1.00 equiv | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
reactant | 4-(dimethylamino)-1,1-dimethoxybut-3-en-2-one | 4.0 mmol, 0.7 g, 1.0 equiv | CN(C=CC(C(OC)OC)=O)C | C8H15NO3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(4-methanesulfonyl-phenyl)-2H-pyrazole-3-carbaldehyde | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=C1C=O | C11H10N2O3S
